US07312181B2
To 200 mg (0.62 mmol) of 3-(3-trifluoromethylbenzamido)benzhydrazide in 2.5 mL of tetrahydrofuran was added 157 mg (121 μL, 0.93 mmol) of 2-chlorophenyl isothiocyanate. The reaction was stirred at room temperature overnight. After concentration by rotoevaporation, the residue was purified by preparative HPLC to give 219 mg (0.44 mmol, 72% yield) of 4-(2-chlorophenyl)-1-[3-(3-trifluoromethylbenzamido)-benzoyl]thiosemicarbazide. 1H NMR (CDCl3): δ7.28 (d of t, 1H), 7.36 (d of t, 1H), 7.49 (d of d, 1H), 7.55 (t, 1H), 7.69 (d, 2H), 7.74 (t, 1H), 7.94 (d of t, 2H), 8.21 (d, 1H), 8.27 (s, 1H), 8.36 (s, 1H), and 9.09 ppm (s, 1H). MS m/z: 493.0 (M+H).

reactant | 3-(3-trifluoromethylbenzamido)benzhydrazide | 0.62 mmol, 200 mg | FC(C=1C=C(C(=O)NC=2C=C(C(=O)NN)C=CC2)C=CC1)(F)F | C15H12F3N3O2
reactant | 2-chlorophenyl isothiocyanate | 0.93 mmol, 121 μL, 157 mg | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 4-(2-chlorophenyl)-1-[3-(3-trifluoromethylbenzamido)-benzoyl]thiosemicarbazide | 0.44 mmol, 219 mg, 72% yield | ClC1=C(C=CC=C1)NC(NNC(C1=CC(=CC=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)=S | C22H16ClF3N4O2S
